US07566733B2
1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone Oxime
1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (0.3005 g; 1.062 mmoles) and hydroxylamine hydrochloride (0.2389 g, 3.438 mmoles) were suspended in pyridine (3 mL) and ethanol (3 mL), then heated to 70° C. for 3 hrs. The reaction mixture was cooled to room temperature, water was water (50 mL) and the reaction mixture was then extracted with ethyl acetate (3×40 ml). The extracts were combined then washed with water (20 mL), brine (30 mL) and dried over Na2SO4. The filtrate was concentrated in vacuo and purifed by column chromatography (SiO2; 30% ethyl acetate/CH2Cl2) to yield the title compound as an off-white solid, as a mixture of oxime E and Z isomers.

reactant | 1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 1.062 mmoles, 0.3005 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | hydroxylamine hydrochloride | 3.438 mmoles, 0.2389 g | Cl.NO
reactant | water | O | H2O
reactant | water | 50 mL | O | H2O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone Oxime | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=NO)C=C1Cl | C9H4Cl2F3N3O
